US04203988
N,N-Dimethyl-N'-(2-diisopropylaminoethyl)-N'-(6-amino-2-pyridyl)urea
Under a nitrogen atmosphere, n-butyl lithium solution (15.5 ml., 0.025 mole) is added dropwise with stirring to a dioxane (50 ml.) solution of N,N-dimethyl-N'-(6-amino-2-pyridyl)urea (4.5 g., 0.025 mole) at 10° C. Then 2-diisopropylaminoethyl chloride hydrochloride (55.5 g., 0.275 mole) is added followed by another portion of n-butyl lithium (15.5 ml., 0.025 mole). The mixture is heated at reflux over night. Ethanol (30 ml.) is added with cooling and the mixture is filtered and concentrated in vacuo. The residue is treated with ether and is filtered to remove salts. Removal of the ether in vacuo gives 5.1 g. of viscous oil. The crude oil is taken up in hexane, filtered and cooled to -25° C. Filtration gives 1.5 g. of white solid, m.p. 86°-88° C.

reactant | n-butyl lithium | 0.025 mole, 15.5 ml | C(CCC)[Li]
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | N,N-dimethyl-N'-(6-amino-2-pyridyl)urea | 0.025 mole, 4.5 g | CN(C(=O)NC1=NC(=CC=C1)N)C | C8H12N4O
reactant | 2-diisopropylaminoethyl chloride hydrochloride | 0.275 mole, 55.5 g | Cl.C(C)(C)N(CCCl)C(C)C
reactant | n-butyl lithium | 0.025 mole, 15.5 ml | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
solvent | Ethanol | 30 ml | C(C)O | C2H6O
product | N,N-Dimethyl-N'-(2-diisopropylaminoethyl)-N'-(6-amino-2-pyridyl)urea | CN(C(=O)N(C1=NC(=CC=C1)N)CCN(C(C)C)C(C)C)C | C16H29N5O
